US06919356B2
Part C: Preparation of 1-{1-[3-(4-fluorophenyl)-propyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea
A mixture of 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethylurea hydrochloride (35 mg, 100 μmol), 3-(4-fluorophenyl)-propionaldehyde (15 mg, 100 μmol), triethylamine (15 μL, 110 μmol), resin-bound cyanoborohydride (prepared according to Ley, S. V., et al., J. Chem. Soc. Perkin Trans. 1, 1998, 2239; 100 mg), toluene (1 mL) and methanol (1 mL) was agitated gently at room temperature for 65 hours. The mixture was filtered, the resin was washed with dichloromethane, and the filtrates were concentrated. The residue was purified by flash chromatography, eluting with 4% methanol in dichloromethane containing 0.4% aqueous ammonium hydroxide, to provide an amorphous white solid (29 mg, 64%). 1H NMR (300 MHz, CDCl3) δ7.88 (s, 1H), 7.79 (d, J=8 Hz, 1H), 7.44 (t, J=8 Hz, 1H), 7.27 (m, 1H), 7.11 (m, 2H), 6.93 (t, J=9 Hz, 2H), 4.18 (s, 3H), 3.2-3.0 (m, 4H), 2.59 (m, 4H), 2.3-1.8 (m, 8H), 1.10 (m, 1H). Mass Spec (ES+) m/z 452.4 (M+H+, 100%).

reactant | 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethylurea hydrochloride | 100 μmol, 35 mg | Cl.CN1N=NN=C1C=1C=C(C=CC1)NC(=O)NCC1CNCCC1
reactant | 3-(4-fluorophenyl)-propionaldehyde | 100 μmol, 15 mg | FC1=CC=C(C=C1)CCC=O | C9H9FO
reactant | triethylamine | 110 μmol, 15 μL | C(C)N(CC)CC | C6H15N
reactant | cyanoborohydride | 100 mg | C(#N)[BH3-]
solvent | methanol | 1 mL | CO | CH4O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{1-[3-(4-fluorophenyl)-propyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 29 mg, 64% | FC1=CC=C(C=C1)CCCN1CC(CCC1)CNC(=O)NC1=CC(=CC=C1)C1=NN=NN1C | C24H30FN7O
